US04912115
2-[N-Methyl-N-(2-(benzo[b]furan-2-yl)-ethyl)-3-amino-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline hydrochloride
Prepared from 2-(N-methyl-3-amino-propyl)-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 2-(2-chloro-ethyl)-benzo[b]furan analogously to Example 1.

reactant | 2-(N-methyl-3-amino-propyl)-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | CNCCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C15H22N2O3
reactant | 2-(2-chloro-ethyl)-benzo[b]furan | ClCCC1=CC2=C(O1)C=CC=C2 | C10H9ClO
product | 2-[N-Methyl-N-(2-(benzo[b]furan-2-yl)-ethyl)-3-amino-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline hydrochloride | Cl.CN(CCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O)CCC1=CC2=C(O1)C=CC=C2 | InChI=1S/C25H30N2O4.ClH/c1-26(13-10-20-15-19-7-4-5-8-22(19)31-20)11-6-12-27-14-9-18-16-23(29-2)24(30-3)17-21(18)25(27)28;/h4-5,7-8,15-17H,6,9-14H2,1-3H3;1H
